datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](CC)[S]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"C[N:10]([CH2:20][I:21])CC>>C[N+:10](=[CH2:20])CC.[I-:21] 10=20;20,21=21"
"[OH:10]C(C)C(C)C(C)C(C)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)C(C)C(C)C(C)[OH+:10]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C(C)C1[H]>>[O:10]([K])C([H])C(C)C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(O[H])OCCCCCC)CCCCCC>>[Na][O:21]CCCCCC.[C:20](=[O:10])(O[H])OCCCCCC 10=20;20,21=21"
"[O:10]([Na])C(CC)/C([H])=C(C)\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(C)=C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"C[CH:20]([N:10](C)C1=C-C=C-C=C1)[I:21]>>C[CH:20]=[N+:10](C)C1=C-C=C-C=C1.[I-:21] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:10]C(CC)/C([H])=C([C:20]([H])=[OH+:21])/O>>[OH:21][C:20]1([H])[OH+:10]C(CC)C([H])=C1O 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CC 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])CC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])CC 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"CCC1C(O[C:20](N1[H])([O-:10])[O:21]C)[H]>>CCC1C(O[C:20](=[O:10])N1[H])[H].[O-:21]C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C)C>>CCC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([K])C([H])C([H])/C([H])=C([H])\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])=C([H])C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(CC)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
